US04141893
2-(3-methoxyphenyl)-2-(2-cyanoethyl)-6-formylcyclohexanone
Following the procedure set forth in Example 1 there was prepared 2-phenyl-2-(2-cyanoethyl)-6-formylcyclohexanone from 2-phenyl-2-(2-cyanoethyl)cyclohexanone and ethylformate.

reactant | 2-phenyl-2-(2-cyanoethyl)-6-formylcyclohexanone | C1(=CC=CC=C1)C1(C(C(CCC1)C=O)=O)CCC#N | C16H17NO2
reactant | 2-phenyl-2-(2-cyanoethyl)cyclohexanone | C1(=CC=CC=C1)C1(C(CCCC1)=O)CCC#N | C15H17NO
reactant | ethylformate | C(C)OC=O | C3H6O2
product | 2-(3-methoxyphenyl)-2-(2-cyanoethyl)-6-formylcyclohexanone | COC=1C=C(C=CC1)C1(C(C(CCC1)C=O)=O)CCC#N | C17H19NO3
